US04349684
8-[2-Oxo-4-phenyl-3-(3-trifluoromethyl-phenyl)-4-imidazolin-1-yl] caprylic acid
The product is produced as described in example 18 from 6.9 g of 8-[2-oxo-4-phenyl-3-(3-trifluoromethyl-phenyl)-4-imidazolin-1-yl] caprylic acid methyl ester and 0.66 g of NaOH in 30 cc. of methanol. Further purification by chromatography on silicic acid gel using chloroform as eluant.

reactant | 8-[2-oxo-4-phenyl-3-(3-trifluoromethyl-phenyl)-4-imidazolin-1-yl] caprylic acid methyl ester | 6.9 g | COC(CCCCCCCN1C(N(C(=C1)C1=CC=CC=C1)C1=CC(=CC=C1)C(F)(F)F)=O)=O | C25H27F3N2O3
reactant | NaOH | 0.66 g | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 8-[2-Oxo-4-phenyl-3-(3-trifluoromethyl-phenyl)-4-imidazolin-1-yl] caprylic acid | O=C1N(C=C(N1C1=CC(=CC=C1)C(F)(F)F)C1=CC=CC=C1)CCCCCCCC(=O)O | C24H25F3N2O3
